US07528129B2
16a) 4-hydroxy-3-trifluoromethyl-benzoic acid
10.0 g (45.4 mmol) 4-methoxy-3-trifluoromethyl-benzoic acid and 75 g pyridinium-hydrochloride were mixed well and then heated to 180° C. under a nitrogen atmosphere for 5 h. The reaction mixture was poured onto 1 L 10% citric acid solution and extracted with 50 mL EtOAc. The organic phase was washed with 1 L water and dried over Na2SO4. After the desiccant and solvent had been eliminated the product was further reacted without purification.

reactant | 4-methoxy-3-trifluoromethyl-benzoic acid | 45.4 mmol, 10.0 g | COC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H7F3O3
reactant | citric acid | 1 L | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-hydroxy-3-trifluoromethyl-benzoic acid | OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H5F3O3
